US04072756
5-[4-(6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)piperidino]-2-pentanone
A solution of 10 g of 5-bromo-2-pentanone in 40 cc of chloroform is added dropwise within 10 minutes to a mixture of 13.8 g of 4-(6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)piperidine and 12.7 g of sodium carbonate in 200 cc of chloroform, and the mixture is heated at reflux for 18 hours. After cooling, filtration is effected, the filtrate is washed with water, dried over magnesium sulphate, and the solvent is completely removed by distillation. The oily residue is then chromatographed on 250 g of silica gel with a mixture of chloroform/ethanol 95:5, and the so purified title compound is converted into the hydrogen fumarate form. M.P. 228°-230°.

reactant | 5-bromo-2-pentanone | 10 g | BrCCCC(C)=O | C5H9BrO
reactant | 4-(6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)piperidine | 13.8 g | C1=CC=CC=2OCC3=C(C(C21)=C2CCNCC2)C=CC=C3 | C19H19NO
reactant | sodium carbonate | 12.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 40 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 cc | C(Cl)(Cl)Cl | CHCl3
product | 5-[4-(6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)piperidino]-2-pentanone | C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCCC(C)=O)C=CC=C3 | C24H27NO2
